US05643908
4-(S)-Isopropyl-3-[2-(R)-tert-butoxycarbonylmethyl-1-oxooctyl]-2-oxazolidinone
Following the procedure described in Referential Example 4, but using 4-(S)-isopropyl-3-(1-oxooctyl)-2-oxazolidinone (5.51 g), prepared in Referential Example 61, and tert-butyl bromoacetate (17 ml), the desired compound (4.13 g) was obtained.

reactant | 4-(S)-isopropyl-3-(1-oxooctyl)-2-oxazolidinone | 5.51 g | C(C)(C)[C@@H]1N(C(OC1)=O)C(CCCCCCC)=O | C14H25NO3
reactant | tert-butyl bromoacetate | 17 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | 4-(S)-Isopropyl-3-[2-(R)-tert-butoxycarbonylmethyl-1-oxooctyl]-2-oxazolidinone | 4.13 g | C(C)(C)[C@@H]1N(C(OC1)=O)C([C@H](CCCCCC)CC(=O)OC(C)(C)C)=O | C20H35NO5
